US08664230B2
To a solution of tetrahydro-2H-pyran-4-ol (0.042 mL, 0.440 mmol) in DMF (1.60 mL) was added NaH (21.0 mg, 55% dispersion in mineral oil, 0.480 mmol) at 0° C. After stirring for 30 min at room temperature, 4,6-dichloropyrido[3,2-d]pyrimidine (80.0 mg, 0.400 mmol) was added to the mixture at 0° C. After stirring for 2 hours at room temperature, the reaction mixture was quenched with saturated aq. NH4Cl, and then extracted with EtOAc. The combined organic layers were washed with brine, dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by column chromatography on SiO2 (Hex:EtOAc=3:1) to give 6-chloro-4-(tetrahydro-2H-pyran-4-yloxy)pyrido[3,2-d]pyrimidine (60.0 mg, 57%) as a yellow solid. 1H-NMR (CDCl3, Varian 400 MHz) δ 2.02-2.11 (2H, m), 2.18-2.23 (2H, m), 3.62-3.68 (2H, m), 4.08-4.13 (2H, m), 5.59-5.63 (1H, m), 7.74 (1H, d, J=8.8 Hz), 8.19 (2H, d, J=8.8 Hz), 8.81 (1H, s).

reactant | tetrahydro-2H-pyran-4-ol | 0.440 mmol, 0.042 mL | O1CCC(CC1)O | C5H10O2
reactant | NaH | 0.480 mmol, 21.0 mg | [H-].[Na+]
reactant | 4,6-dichloropyrido[3,2-d]pyrimidine | 0.400 mmol, 80.0 mg | ClC=1C2=C(N=CN1)C=CC(=N2)Cl | C7H3Cl2N3
solvent | DMF | 1.60 mL | CN(C)C=O | C3H7NO
product | 6-chloro-4-(tetrahydro-2H-pyran-4-yloxy)pyrido[3,2-d]pyrimidine | 60.0 mg, 57% | ClC=1C=CC=2N=CN=C(C2N1)OC1CCOCC1 | C12H12ClN3O2
